US07115635B2
Synthesis of (4-acetylphenyloxy)-N-[1-(3,4-dichlorobenzyl)piperidin-4-yl]acetamide
(4-Acetylphenyloxy)acetic acid (2.0 g) and 4-amino-1-(3,4-dichlorobenzyl)piperidine dihydrochloride (3.4 g) were suspended in DMF (50 mL), and triethylamine (2.9 mL), EDC hydrochloride (2.4 g) and HOBt (1.9 g) were added to the suspension. The suspension was stirred for 12 hrs. The reaction mixture was washed with water and then saturated brine and dried, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the residue to crystallize to give the title compound (1.3 g) as a white solid. melting point: 113° C.

reactant | (4-Acetylphenyloxy)acetic acid | 2.0 g | C(C)(=O)C1=CC=C(C=C1)OCC(=O)O | C10H10O4
reactant | 4-amino-1-(3,4-dichlorobenzyl)piperidine dihydrochloride | 3.4 g | Cl.Cl.NC1CCN(CC1)CC1=CC(=C(C=C1)Cl)Cl
reactant | EDC hydrochloride | 2.4 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 2.9 mL | C(C)N(CC)CC | C6H15N
product | (4-acetylphenyloxy)-N-[1-(3,4-dichlorobenzyl)piperidin-4-yl]acetamide | 1.3 g | C(C)(=O)C1=CC=C(C=C1)OCC(=O)NC1CCN(CC1)CC1=CC(=C(C=C1)Cl)Cl | C22H24Cl2N2O3
